US07709471B2
1-(pyrrolidine-1-carbonyl)cyclopropane-1-carboxamide
To 1-(aminocarbonyl)-1-cyclopropane carboxylic acid (Aldrich; 25 g, 193.6 mmol) in DCM (625 mL) was added HATU (73.61 g, 193.6 mmol) and the suspension stirred for 30 minutes. Pyrrolidine (Aldrich; 24.25 mL) and Hunig's base (67 mL) was added and the reaction stirred at room temperature over the weekend.

reactant | 1-(aminocarbonyl)-1-cyclopropane carboxylic acid | 193.6 mmol, 25 g | NC(=O)C1(CC1)C(=O)O | C5H7NO3
reactant | HATU | 193.6 mmol, 73.61 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Pyrrolidine | 24.25 mL | N1CCCC1 | C4H9N
reactant | Hunig's base | 67 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 625 mL | C(Cl)Cl | CH2Cl2
product | 1-(pyrrolidine-1-carbonyl)cyclopropane-1-carboxamide | N1(CCCC1)C(=O)C1(CC1)C(=O)N | C9H14N2O2
